US09085523B2
1-bromooctadec-2-in (Compound 18)
Thereto, 2-octadecyn-1-ol (510 mg) was dissolved in dichloromethane (20 mL) and carbontetrabromide (960 mg) and triphenylphosphine (660 mg) were added at 0° C., followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate-99:1→95:5) to obtain the title compound (630 mg) having the following physical property values.

reactant | 2-octadecyn-1-ol | 510 mg | C(C#CCCCCCCCCCCCCCCC)O | C18H34O
reactant | carbontetrabromide | 960 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 660 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-bromooctadec-2-in | 630 mg | BrCC#CCCCCCCCCCCCCCCC | C18H33Br
